US08536203B2
A suspension of 4-(3,4-dimethoxy-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)pyrimidine (0.239 g, 0.59 mmol) in 48% hydrobromic acid (5 mL) was stirred at 140° C. for four hours and then allowed to cool to room temperature. The mixture was poured onto ice-water (100 mL) and the resulting filtrate was filtered off, washed with water and dried to give 3-nitro-5-(2-(2-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yl)benzene-1,2-diol, 0.201 g (90%).

reactant | 4-(3,4-dimethoxy-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)pyrimidine | 0.59 mmol, 0.239 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NC(=NC=C1)C=1C(=NC=CC1)C(F)(F)F | C18H13F3N4O4
solvent | hydrobromic acid | 5 mL | Br | BrH
product | 3-nitro-5-(2-(2-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yl)benzene-1,2-diol | [N+](=O)([O-])C1=C(C(=CC(=C1)C1=NC(=NC=C1)C=1C(=NC=CC1)C(F)(F)F)O)O | C16H9F3N4O4
